US06858627B2
Synthesis of [6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]phenylamine
(3,5-Dichlorophenyl)-[6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]amine 2 mg of 4-bromomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline, 32 mg of potassium carbonate, and 20 mg of 3,5-dichloroaniline reacted to give 1.2 mg of the title compound as a foam.

reactant | (3,5-Dichlorophenyl)-[6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]amine | 2 mg | ClC=1C=C(C=C(C1)Cl)NCC1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C25H24Cl2N2O
reactant | 4-bromomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline | BrCC1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C19H20BrNO
reactant | potassium carbonate | 32 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3,5-dichloroaniline | 20 mg | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
product | [6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]phenylamine | 1.2 mg | COC1=C(C=CC=C1)C=1C=C2C(=CC(NC2=CC1)(C)C)CNC1=CC=CC=C1 | C25H26N2O
